US05864039
4-Amino-5-chloro-2-methoxy-N-((1-(6-(4-methoxybenzylamino)hexyl)-piperidin-4-yl)methyl)benzamide (0.9 g) as starting compound, acetaldehyde (0.12 ml) and sodium cyanoborohydride (0.26 g) were reacted and treated in the same manner as in Example 136 to give 0.55 g of 4-amino-5-chloro-N-((1-(6-(N-ethyl-N-(4-methoxybenzyl)amino)hexyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-((1-(6-(4-methoxybenzylamino)hexyl)-piperidin-4-yl)methyl)benzamide | 0.9 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCNCC2=CC=C(C=C2)OC)C=C1Cl)OC | C28H41ClN4O3
reactant | acetaldehyde | 0.12 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.26 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(6-(N-ethyl-N-(4-methoxybenzyl)amino)hexyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 0.55 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN(CC2=CC=C(C=C2)OC)CC)C=C1Cl)OC | C30H45ClN4O3
